US04886810
In the same manner as described in Example 1, a mixture of 1-cyclopropyl-5,6,7,8-tetrafluoro-1,4-dihydro4-oxoquinoline-3-carboxylic acid, 2-fluoromethylpiperazine, and dioxane was refluxed for 5 hours to give 1-cyclopropyl-5,6,8-trifluoro-7-(3-fluoromethyl-1-piperazinyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid, which was recrystallized from chloroform, m.p. 219°-220° C.

reactant | 1-cyclopropyl-5,6,7,8-tetrafluoro-1,4-dihydro4-oxoquinoline-3-carboxylic acid | C1(CC1)N1C=C(C(C2=C(C(=C(C(=C12)F)F)F)F)=O)C(=O)O | C13H7F4NO3
reactant | 2-fluoromethylpiperazine | FCC1NCCNC1 | C5H11FN2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 1-cyclopropyl-5,6,8-trifluoro-7-(3-fluoromethyl-1-piperazinyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | C1(CC1)N1C=C(C(C2=C(C(=C(C(=C12)F)N1CC(NCC1)CF)F)F)=O)C(=O)O | C18H17F4N3O3
